US06441005B1
5-(S)-Acetamidomethyl-3-[4′-formamido-3′-fluorophenyl]oxazolidine-2-one
A solution of 5-(S)-acetamidomethyl-3-[4′-amino-3′-fluorophenyl]-oxazolidine-2-one (0.200 g, 0.748 mmol), p-nitrophenyl formate (0.188 g, 1.12 mmol), and 2,6-di-(tert-butyl)pyridine (0.336 mL, 1.50 mmol) in THF (4 mL) was stirred at 65° C. overnight. Solvent was removed under vacuum and the residue purified by PTLC (30% acetone in DCM) to give product as a white solid (0.188 g, 85%). M.p. 196-8° C.; MS (m/z): [M+H]+=296.

reactant | 5-(S)-acetamidomethyl-3-[4′-amino-3′-fluorophenyl]-oxazolidine-2-one | 0.748 mmol, 0.200 g | C(C)(=O)NC[C@H]1CN(C(O1)=O)C1=CC(=C(C=C1)N)F | C12H14FN3O3
reactant | p-nitrophenyl formate | 1.12 mmol, 0.188 g | C(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H5NO4
reactant | 2,6-di-(tert-butyl)pyridine | 1.50 mmol, 0.336 mL | C(C)(C)(C)C1=NC(=CC=C1)C(C)(C)C | C13H21N
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 5-(S)-Acetamidomethyl-3-[4′-formamido-3′-fluorophenyl]oxazolidine-2-one | 0.188 g, 85% | C(C)(=O)NC[C@H]1CN(C(O1)=O)C1=CC(=C(C=C1)NC=O)F | C13H14FN3O4
